US08440666B2
4-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}butanoic Acid
Ethyl 4-{5-bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}butanoate (454 mg, 0.981 mmol) in 1,4-dioxane (4.5 mL) was stirred with 1 M aqueous sodium hydroxide (2.06 mL, 2.06 mmol) at room temperature for 6.5 hours. After completion of the reaction, ethyl acetate was added, and the organic layer was washed with 1 M hydrochloric acid and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give the desired product (182 mg, 64% yield).

reactant | Ethyl 4-{5-bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}butanoate | 0.981 mmol, 454 mg | BrC1=C(C=NN(C1=O)CCCC(=O)OCC)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C20H30BrN3O3
reactant | sodium hydroxide | 2.06 mmol, 1 M, 2.06 mL | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
product | 4-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}butanoic Acid | 182 mg, 64% yield | BrC1=C(C=NN(C1=O)CCCC(=O)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C18H26BrN3O3
